US07070868B2
Sodium hydroxide (5 M, 1.8 g, 43.9 mmol) was added to a mixture of 2-acetamidobenzophenone (10.5 g, 43.9 mmol) in ethanol (439 mL). The mixture was heated to reflux for 3 hours, then cooled to room temperature and concentrated. Water and methylene chloride were added while stirring to form a white precipitate. The solid was collected by vacuum filtration and washed with methylene chloride to yield 2-hydroxy-4-phenylquinoline.

reactant | Sodium hydroxide | 43.9 mmol, 5 M, 1.8 g | [OH-].[Na+]
reactant | 2-acetamidobenzophenone | 43.9 mmol, 10.5 g | C(C)(=O)NC1=C(C(=O)C2=CC=CC=C2)C=CC=C1 | C15H13NO2
solvent | ethanol | 439 mL | C(C)O | C2H6O
product | 2-hydroxy-4-phenylquinoline | OC1=NC2=CC=CC=C2C(=C1)C1=CC=CC=C1 | C15H11NO
